US08227601B2
2-Chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine
To a stirred suspension of NaH (8.9 mg, 0.22 mmol) in dry NMP (1.0 mL) was added 2,4,6-trimethyl phenol (30.2 mg, 0.22 mmol) and stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 2,4-dichloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine (44.6 mg, 0.22 mmol) in dry NMP (1.0 mL) and heated at 90° C. for 16 h. After completion of the reaction, the resulting mixture was cooled, diluted with water and washed with EtOAc. The combined organic layers were washed with water, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexanes/ethyl acetate (5:1-2:1), to give the product as a light yellow solid (52.7 mg, 80%).

reactant | NaH | 0.22 mmol, 8.9 mg | [H-].[Na+]
reactant | 2,4,6-trimethyl phenol | 0.22 mmol, 30.2 mg | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | 2,4-dichloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 0.22 mmol, 44.6 mg | ClC=1N=C(C2=C(N1)C=CN2C)Cl | C7H5Cl2N3
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 2-Chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 52.7 mg, 80% | ClC=1N=C(C2=C(N1)C=CN2C)OC2=C(C=C(C=C2C)C)C | C16H16ClN3O
